US05633247
Step C: 1'-Benzoyl-1,3-dihydro-1-oxospiro-[2H-indene-2,4'-piperidine]
A solution of 6.14 g (19.0 mmoles) 1-benzoyl-4-(phenylmethyl)-4-piperidinecarboxylic acid in 61 ml concentrated sulfuzic acid was stirred 18 hours at room temperature to give a deep red solution. The solution was carefully diluted with ice-bath cooling with 300 ml H2O and extracted with 3×300 ml ethyl acetate. The extract was washed with 25 ml water and brine, dried, and the solvent wam removed in vacuo to give a white foam. The foam was stirred under ether and filtered off to give 3.61 g (62%) product, m.p. 149°-154° C. 1H NMR (deuteriochloroform): δ1.50 (m, 2H), 2.00 (m, 2H), 3.12 (m, 2H), 3.25 (d of d of d, 2H), 3.90 (d, 1H), 4.62 (m, 1H), 7.43 (m, 7H), 7.63 (d of d, 1H), 7.79 (d, 1H).

reactant | 1-benzoyl-4-(phenylmethyl)-4-piperidinecarboxylic acid | 19.0 mmoles, 6.14 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)(C(=O)O)CC1=CC=CC=C1 | C20H21NO3
solvent | H2O | 300 ml | O | H2O
product | 1'-Benzoyl-1,3-dihydro-1-oxospiro-[2H-indene-2,4'-piperidine] | 3.61 g, 62% | C(C1=CC=CC=C1)(=O)N1CCC2(CC1)C(C1=CC=CC=C1C2)=O | C20H19NO2
